US08003638B2
Preparation 16: 3-(3-chloropropyl)-7-(1,3-dimethyl-1H-pyrazol-5-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine
To a solution of 7-(1,3-dimethyl-1H-pyrazol-5-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine (0.5 g) in dry THF (10 ml), diisopropylethylamine (0.85 ml) and 1-bromo-3-chloropropane (0.47 mL) were added and the resulting mixture was refluxed for 7 hours. After cooling at room temperature it was diluted with ethyl acetate (30 ml) washed twice with a saturated solution of NaHCO3 in water (20 ml), dried over Na2SO4 and concentrated under reduced pressure. The crude was purified by biotage chromatography using a silica 25 M+ cartridge and eluting with cHex/EtOAc 8:2 to give the title compound as a colourless oil (0.57 g).

reactant | 7-(1,3-dimethyl-1H-pyrazol-5-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.5 g | CN1N=C(C=C1C1=CC2=C(CCNCC2)C=C1)C | C15H19N3
reactant | 1-bromo-3-chloropropane | 0.47 mL | BrCCCCl | C3H6BrCl
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | diisopropylethylamine | 0.85 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 3-(3-chloropropyl)-7-(1,3-dimethyl-1H-pyrazol-5-yl)-2,3,4,5-tetrahydro-1H-3-benzazepine | 0.57 g | ClCCCN1CCC2=C(CC1)C=CC(=C2)C2=CC(=NN2C)C | C18H24ClN3
